US04546101
Jones reagent (14.5 ml) was dropwise added to a suspension of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (syn isomer) (19.5 g) in acetone (300 ml) at 0° to 3° C. under stirring and the mixture was stirred for 20 minutes at the same temperature. The reaction mixture was filtered and the filtrate was washed with acetone. To the mixture of the filtrate and washings was added ethyl acetate (300 ml) and washed with brine and dried over magnesium sulfate. The solution was evaporated and the residue was pulverized in diethyl ether to give benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-formyl-3-cephem-4-carboxylate (syn isomer) (13.7 g).

reactant | Jones reagent | 14.5 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 19.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25N5O7S2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-formyl-3-cephem-4-carboxylate | 13.7 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H23N5O7S2
